US07098219B2
5-Amino-1-(2′,4′-difluorophenyl)-6,8-difluoro-1,4-dihydro-7-(3′-hydroxy-5′-methylpyrrolidin-1-yl)-4-oxo-quinoline-3-carboxylic acid
The condensation of 5-Amino-1-(2′,4′-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid with 3-hydroxy-5-methylpyrrolidine in a similar manner as described in example 1 gave the titled product. Yield 64%, m.p ° C., C21H17F4N3O4, m/z 453. (M+1)

reactant | 5-Amino-1-(2′,4′-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C16H7F5N2O3
reactant | 3-hydroxy-5-methylpyrrolidine | OC1CNC(C1)C | C5H11NO
product | 5-Amino-1-(2′,4′-difluorophenyl)-6,8-difluoro-1,4-dihydro-7-(3′-hydroxy-5′-methylpyrrolidin-1-yl)-4-oxo-quinoline-3-carboxylic acid | Yield 64% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1C)O)F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C21H17F4N3O4
